US05852040
4-Bromobenzotrifluoride (6.05 mL, 43.21 mmol) dissolved in ether (5 mL) was added dropwise over 10 minutes to magnesium turnings (1.25 g, 51.42 mmol). The mixture became mildly exothermic and turned red-brown while the Grignard reagent formed during 1.5 hours of stirring. The mixture was chilled with ice and 1-benzyloxycarbonyl-4-piperidone (10.0 g, 42.87 mmol dissolved in 50 mL of ether) was added dropwise over 10 minutes to the reaction. The reaction was allowed to warm to room temperature and stirred overnight. The mixture was quenched with saturated ammonium chloride and the phases were separated. The aqueous layer was further extracted with ether. The combined organic phase was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography on silica gel (3×6 inches, 30% ethyl acetate/hexane) to give 1-benzyloxycarbonyl4-hydroxy-4-(4-trifluoromethylphenyl)piperidine as an orange oily product which solidified on standing (12.48 g, 77%). The material was suitable for use in the next step. A sample recrystallized from ether/hexane had mp 102°-102.5° C. Analysis calculated for C20H20F3NO3 : C, 63.32; H, 5.31; N, 3.69. Found: C, 63.25; H, 5.27; N, 3.71.

reactant | 4-Bromobenzotrifluoride | 43.21 mmol, 6.05 mL | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 51.42 mmol, 1.25 g | [Mg] | Mg
reactant | 1-benzyloxycarbonyl-4-piperidone | 42.87 mmol, 50 mL, 10.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
solvent | ether | 5 mL | CCOCC | C4H10O
product | 1-benzyloxycarbonyl4-hydroxy-4-(4-trifluoromethylphenyl)piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)C(F)(F)F)O | C20H20F3NO3
